US05679791
Preparation of 1-(5-Amino-2-chloro-4-fluorophenyl)-3-(2-propynyl)-s-triazine-2,4,6-(1H, 3H, 5H)-trione
A mixture of 4'-chloro-2'-fluoro-5'-[hexahydro-2,4,6-trioxo-3-(2-propynyl)-s-triazin-1-yl]acetanilide (3.00 g, 8.5 mmol), and 3N hydrochloric acid (25 mL) in ethanol (50 mL) is refluxed for 3 hours, cooled to room temperature, and poured into ethyl acetate. 3N sodium hydroxide solution (25 mL) is added to the organic solution, and the phases are separated. The organic phase is washed sequentially with saturated sodium hydrogen carbonate solution and brine, and concentrated in vacuo to give the title product as a beige solid (2.17 g, mp 118°-121° C.).

reactant | 4'-chloro-2'-fluoro-5'-[hexahydro-2,4,6-trioxo-3-(2-propynyl)-s-triazin-1-yl]acetanilide | 8.5 mmol, 3.00 g | ClC1=CC(=C(NC(C)=O)C=C1N1C(N(C(NC1=O)=O)CC#C)=O)F | C14H10ClFN4O4
reactant | hydrochloric acid | 3N, 25 mL | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | 3N, 25 mL | [OH-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 1-(5-Amino-2-chloro-4-fluorophenyl)-3-(2-propynyl)-s-triazine-2,4,6-(1H, 3H, 5H)-trione | 2.17 g | NC=1C(=CC(=C(C1)N1C(N(C(NC1=O)=O)CC#C)=O)Cl)F | C12H8ClFN4O3
